US05827881
A! Starting from 5-bromopentanoic acid (50 g, 0.276 mole) and thionyl chloride (39 ml, 0.552 mole) in absolute ethanol (500 ml) and following the procedure of Example 13,A!, there were obtained 62.7 g of ethyl 5-bromopentanoate (quantitative yield) which was used as such in the next step.

reactant | 5-bromopentanoic acid | 0.276 mole, 50 g | BrCCCCC(=O)O | C5H9BrO2
reactant | thionyl chloride | 0.552 mole, 39 ml | S(=O)(Cl)Cl | Cl2OS
reactant | ethanol | 500 ml | C(C)O | C2H6O
product | ethyl 5-bromopentanoate | 62.7 g, quantitative yield | BrCCCCC(=O)OCC | C7H13BrO2
